US07714168B2
To 30 ml of ethanol were added 5.5 g of methyl 3,5-difluoro-4-(2-propynyloxy)benzoate and 10 ml of 15% aqueous sodium hydroxide solution and the mixture obtained was stirred at room temperature for 2 hours. Then, the reaction mixture was concentrated under reduced pressure. Hydrochloric acid was added to the residue for acidification and then, solid precipitated was collected by filtration to obtain 5.0 g of 3,5-difluoro-4-(2-propynyloxy)benzoic acid represented by the formula:

reactant | methyl 3,5-difluoro-4-(2-propynyloxy)benzoate | 5.5 g | FC=1C=C(C(=O)OC)C=C(C1OCC#C)F | C11H8F2O3
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3,5-difluoro-4-(2-propynyloxy)benzoic acid | 5.0 g | FC=1C=C(C(=O)O)C=C(C1OCC#C)F | C10H6F2O3
